US04092430
[o-(2,6-dichloroanilino)-phenyl]-acetic acid-p-nitrophenyl ester
[o-(3-chloro-o-toluidino)-phenyl]-acetic acid-p-nitrophenyl ester, starting with [o-(3-chloro-o-toluidino)-phenyl]-acetic acid, M.P. 124° - 125° (from ether/petroleum ether).

reactant | [o-(3-chloro-o-toluidino)-phenyl]-acetic acid-p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=C(C=CC=C1)NC=1C(=CC=CC1Cl)C)=O | C21H17ClN2O4
reactant | [o-(3-chloro-o-toluidino)-phenyl]-acetic acid | ClC1=C(C(=CC=C1)C)NC1=C(C=CC=C1)CC(=O)O | C15H14ClNO2
product | [o-(2,6-dichloroanilino)-phenyl]-acetic acid-p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O | C20H14Cl2N2O4
